US04077930
Acrylamide/2-Hydroxy-3-Methacryloyloxy Propyl Trimethyl Ammonium Chloride (90/10 Mole Percent, Batch, 30% Active Solids)
Acrylamide (AM) (21.9 g.) and 2-hydroxy-3-methacryloyloxy propyl trimethyl ammonium chloride (G-Mac) (8.1 g.) were dissolved in distilled water (30.0 g.) and combined with Tween 85 (10.0 g.) and Mineral Spirits (30.0 g.). The reaction was completed according to the procedures of Example 1. A stable emulsion product was obtained.

reactant | Acrylamide | 21.9 g | C(C=C)(=O)N | C3H5NO
reactant | 2-hydroxy-3-methacryloyloxy propyl trimethyl ammonium chloride | 8.1 g | [Cl-].OC(C[N+](C)(C)C)COC(C(=C)C)=O
solvent | water | 30.0 g | O | H2O
product | Acrylamide 2-Hydroxy-3-Methacryloyloxy Propyl Trimethyl Ammonium Chloride | C(C=C)(=O)N.[Cl-].OC(C[N+](C)(C)C)COC(C(=C)C)=O | InChI=1S/C10H20NO3.C3H5NO.ClH/c1-8(2)10(13)14-7-9(12)6-11(3,4)5;1-2-3(4)5;/h9,12H,1,6-7H2,2-5H3;2H,1H2,(H2,4,5);1H/q+1;;/p-1
